US04634768
Synthesis of methyl 6-chloro-3-methylflavone-8-carboxylate
A 23.8 g (0.165 mole) quantity of sodium benzoate was added with stirring to a mixture of 12.1 g (0.05 mole) of methyl 5-chloro-3-propionylsalicylate and 21.1 g (0.15 mole) of benzoyl chloride. The resulting mixture was heated at 180° to 190° C. in an oil bath for 8 hours to undergo reaction. After cooling, 100 ml of a 5% aqueous solution of sodium carbonate was added to the reaction mixture and the admixture was stirred. The solids formed were recrystallized from alcohol, giving 14.8 g (90.1%) of white crystal, which was repeatedly recrystallized from alcohol to obtain a compound having a melting point of 171.5° to 173.0° C. The compound was chemically analyzed with the results shown in Table 1 given below.

reactant | sodium benzoate | C(C1=CC=CC=C1)(=O)[O-].[Na+]
reactant | methyl 5-chloro-3-propionylsalicylate | 0.05 mole, 12.1 g | ClC1=CC(=C(C(C(=O)OC)=C1)O)C(CC)=O | C11H11ClO4
reactant | benzoyl chloride | 0.15 mole, 21.1 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | methyl 6-chloro-3-methylflavone-8-carboxylate | 14.8 g, 90.1% | ClC=1C=C2C(C(=C(OC2=C(C1)C(=O)OC)C1=CC=CC=C1)C)=O | C18H13ClO4
